US06468607B1
To 25.0 g of 6-bromo-2-naphthol and 22.0 g of 3,4-difluorophenylboric acid were added 100 ml of toluene, 50 ml of ethanol, 50 ml of a 2 N aqueous solution of potassium carbonate and 1.3 g of tetrakis(triphenylphosphine)palladium (0). The reaction mixture was heated under reflux for 3 hours. The reaction solution was then allowed to cool to room temperature. The resulting organic phase was separated, washed with water and saturated brine, and then dried over anhydrous sodium sulfate. The solvent was then distilled off. The residue was purified through silica gel column chromatography (dichloromethane) to obtain 25.3 g of 6-(3,4-difluorophenyl)-2-naphthol.

reactant | 6-bromo-2-naphthol | 25.0 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | 3,4-difluorophenylboric acid | 22.0 g | FC=1C=C(C=CC1F)OB(O)O | C6H5BF2O3
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 1.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-(3,4-difluorophenyl)-2-naphthol | 25.3 g | FC=1C=C(C=CC1F)C=1C=C2C=CC(=CC2=CC1)O | C16H10F2O
